US05935956
4,4a,5,6-tetrahydro-2-(4-trifluoromethylphenyl)pyrido[3,4-h]cinnolin-3(2H)-one
Prepared according to the method described in Example 1 from methyl 5,6,7,8-tetrahydro-5-oxoisoquinoline-6-acetate hydrobromide and 4-trifluoromethylphenylhydrazine.

reactant | methyl 5,6,7,8-tetrahydro-5-oxoisoquinoline-6-acetate hydrobromide | Br.O=C1C=2C=CN=CC2CCC1CC(=O)OC
reactant | 4-trifluoromethylphenylhydrazine | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
product | 4,4a,5,6-tetrahydro-2-(4-trifluoromethylphenyl)pyrido[3,4-h]cinnolin-3(2H)-one | FC(C1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=NC=C3)(F)F | C18H14F3N3O
